US05591762
4'-[[2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
4.3 g (66 mMol) of sodium azide and 3.5 g (66 mMol) of ammonium chloride are added to a solution of 1.60 g (3.3 mMol) of 4'-[[2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]-methyl]-2-cyano-biphenyl in 50 ml of di-methylformamide and the mixture is stirred for 24 hours at 140° C. Then water is added and the precipitate is removed by suction filtering. The crude product thus obtained is purified by chromatography over silica gel (300 g of silica gel, methylene chloride +6% ethanol).

reactant | sodium azide | 66 mMol, 4.3 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 66 mMol, 3.5 g | [Cl-].[NH4+]
reactant | 4'-[[2-n-propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]-methyl]-2-cyano-biphenyl | 3.3 mMol, 1.60 g | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C33H29N5
reactant | water | O | H2O
solvent | di-methylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4'-[[2-n-Propyl-4-methyl-6-(1-methylbenzimidazol-2-yl)-benzimidazol-1-yl]-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C2=NC1=C(N2C)C=CC=C1 | C33H30N8
